US03976691
A solution of 13.0 g (0.1 mole) of 1-octanol in 25 ml of methylene chloride was added dropwise to a solution of 16.1 g (0.1 mole) of diethylaminosulfur trifluoride in 60 ml methylene chloride cooled to -70° to -65°. The reaction mixture was then warmed to 25° and 50 ml of water was added. The lower organic layer was separated, dried (MgSO4) and then distilled to give 12.0 g (90%) of 1-fluorooctane as a colorless liquid: bp 42°-43° (20 mm), 19F nmr (CCl3F) δ -218.8 ppm (t, t, 1F, J = 49, 25 Hz).

reactant | 1-octanol | 0.1 mole, 13.0 g | C(CCCCCCC)O | C8H18O
reactant | diethylaminosulfur trifluoride | 0.1 mole, 16.1 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 1-fluorooctane | 12.0 g, 90% | FCCCCCCCC | C8H17F
